US04623662
1-[(4-Butylphenyl)methyl]-3-(2,4-difluorophenyl)-1-(6-hydroxyhexyl)urea
A mixture of 1.58 g of 6-[[(4-butylphenyl)-methyl]amino]-1-hexanol and 1.5 g of phenyl-N-(2,4-difluorophenyl)carbamate in 40 ml of toluene was heated at reflux for 5 hours. The reaction mixture was cooled and allowed to stand at room temperature for 16 hours. The solution was washed with 3N aqueous hydrochloric acid, brine, 1N aqueous sodium hydroxide and brine again, then was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated in vacuo and gave a yellow oil. The oil was treated by preparative high pressure liquid chromatography and gave 0.93 g (37%) of the desired product as a colorless oil.

reactant | 6-[[(4-butylphenyl)-methyl]amino]-1-hexanol | 1.58 g | C(CCC)C1=CC=C(C=C1)CNCCCCCCO | C17H29NO
reactant | phenyl-N-(2,4-difluorophenyl)carbamate | 1.5 g | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1)F)F)=O | C13H9F2NO2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(4-Butylphenyl)methyl]-3-(2,4-difluorophenyl)-1-(6-hydroxyhexyl)urea | 0.93 g, 37% | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCO | C24H32F2N2O2
